US07557114B2
a) 5-Methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-benzoic acid methyl ester
In a glass tube was added successively 0.29 mmol 2-Iodo-5-methanesulfonyl-benzoic acid methyl ester (example B19(c)), 0.35 mmol 4-methylpyrazole, 0.59 mmol potassium carbonate, 0.06 mmol CuI and a solution of 0.12 mmol trans-1,2-diaminocyclohexane in 0.4 ml dioxane (degassed). The tube was filled with argon and sealed with a cap. The reaction mixture was heated at 120° C. overnight. The reaction mixture was cooled down to room temperature, dichloromethane and water were added. The aqueous phase was extracted 2 times with dichloromethane. The combined organic phases were dried over sodium sulfate and evaporated. The crude compound was purified on a log Flashpack cartridge. Eluent: Heptane/ethylacetate to provide the title compound (57%) as a light yellow oil. MS (m/e): 295.0([M+H]+, 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid methyl ester | 0.29 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C)I)=O | C9H9IO4S
reactant | 4-methylpyrazole | 0.35 mmol | CC=1C=NNC1 | C4H6N2
reactant | potassium carbonate | 0.59 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.12 mmol | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.06 mmol | [Cu]I
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-benzoic acid methyl ester | 57% | COC(C1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC(=C1)C)=O | C13H14N2O4S
